US09120761B2
(b) tert-Butyl (2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate (I17)
2-Methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1.00 g, 4.01 mmol), Boc anhydride (1.75 g, 8.02 mmol) and toluene (10 mL) were stirred under nitrogen at 110° C. for 20 hours. The volatiles were evaporated under reduced pressure then the residue adsorbed onto silica gel. Chromatography (SiO2, 0-20% ethyl acetate/petroleum benzine 40-60° C.) gave the title compound (I17) (1.40 g, 100%) as a colourless solid; 1H NMR (400 MHz, CDCl3) δ 8.11 (d, J=7.9 Hz, 1H), 7.43 (dd, J=8.0, 0.8 Hz, 1H), 7.26 (dd, J=7.8, 6.9 Hz, 1H), 3.92 (s, 3H), 1.53 (s, 9H), 1.35 (s, 12H). LCMS Method C: rt 6.85 min.

reactant | 2-Methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 4.01 mmol, 1.00 g | COC1=C(N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO3
reactant | Boc anhydride | 8.02 mmol, 1.75 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl (2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate | 1.40 g, 100% | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(OC(C)(C)C)=O | C18H28BNO5
